US06602825B1
4-Chloro-6-fluoro-2-methoxy-3-nitrophenylamine
A suspension of 40.0 g (152 mmol) of N-(4-chloro-6-fluoro-2-methoxy-3-nitrophenyl)acetamide in 800 ml of 6M hydrochloric acid was heated for 5 hours at reflux temperature, whereupon the mixture was stirred overnight at approximately 20° C. For work-up, the reaction mixture was stirred into ice-water. The pH was brought to 8-9 by adding sodium solution. The mixture was subsequently extracted six times with ethyl acetate. The combined organic phases were dried over magnesium sulfate and then concentrated under reduced pressure. Yield: 33 g (98%);

reactant | N-(4-chloro-6-fluoro-2-methoxy-3-nitrophenyl)acetamide | 152 mmol, 40.0 g | ClC1=C(C(=C(C(=C1)F)NC(C)=O)OC)[N+](=O)[O-] | C9H8ClFN2O4
reactant | sodium | [Na] | Na
solvent | hydrochloric acid | 6M, 800 ml | Cl | ClH
product | 4-Chloro-6-fluoro-2-methoxy-3-nitrophenylamine | ClC1=C(C(=C(C(=C1)F)N)OC)[N+](=O)[O-] | C7H6ClFN2O3
